US06579884B1
Synthesis of 2-(((2,3-dimethylimidazo[1,2-a]pyridin-8-yl)amino)methyl)-3-methylphenyl trifluoromethanesulfonate
To a solution of 8-(2-hydroxy-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine (0.1 g, 0.32 mmol) in methylene chloride (7 ml) was added triethyl amine (0.07 g, 0.69 mmol) and the reaction mixture was cooled on ice. N,N-dimethylamino pyridine (0.077 g, 10 mmol) and trifluoromethanesulfonic anhydride (0.12 g, 0.41 mmol) in methylene chloride (0.5 ml) and N-phenyltrifuoromethanesulfonimide (0.28 g, 0.78 mmol) and potassium carbonate (0.38 g, 2.7 mmol) were added and the reaction mixture was stirred for 135 min. at 18° C. Methylene chloride was added and the solution was washed with water/NH4Cl, saturated sodium bicarbonate and water. The organic layer was separated, dried, and evaporated under reduced pressure. Purification of the residue by column chromatography on silica gel using methylene chloride: ethyl acetate (10:2) as eluent and crystallization from diethyl ether/petroleum ether gave 0.053 g (40%) of the title compound.

reactant | 8-(2-hydroxy-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine | 0.32 mmol, 0.1 g | OC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C17H19N3O
reactant | triethyl amine | 0.69 mmol, 0.07 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.41 mmol, 0.12 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | potassium carbonate | 2.7 mmol, 0.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
product | 2-(((2,3-dimethylimidazo[1,2-a]pyridin-8-yl)amino)methyl)-3-methylphenyl trifluoromethanesulfonate | 0.053 g, 40% | FC(S(=O)(=O)OC1=C(C(=CC=C1)C)CNC=1C=2N(C=CC1)C(=C(N2)C)C)(F)F | C18H18F3N3O3S
